US05318966
4.0 g (0.01525 mol) of ethyl 1,2,3,4-tetrahydro-5-methoxy-2-oxo-1-naphthylacetate were dissolved in 80 ml of toluene, 2.29 ml (0.016 mol) of 3-phenylpropylamine were added thereto and the mixture was boiled for 20 hours on a water separator. After concentration the residue was hydrogenated with 1.5 g of Raney-nickel in 150 ml of ethanol at 120° and 140 bar for 10 hours. The product was chromatographed over silica gel with cyclohexane/ethyl acetate 2:1. There were obtained 3.13 g (61%) of oily rac-cis-3-(3-cyclohexyl-propyl)-1,3,3a,4,5,9b-hexahydro-6-methoxy-2H-benzo[e]indol-2-one.

reactant | ethyl 1,2,3,4-tetrahydro-5-methoxy-2-oxo-1-naphthylacetate | 0.01525 mol, 4.0 g | COC1=C2CCC(C(C2=CC=C1)CC(=O)OCC)=O | C15H18O4
reactant | 3-phenylpropylamine | 0.016 mol, 2.29 ml | C1(=CC=CC=C1)CCCN | C9H13N
reactant | water | O | H2O
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | rac-cis-3-(3-cyclohexyl-propyl)-1,3,3a,4,5,9b-hexahydro-6-methoxy-2H-benzo[e]indol-2-one | 3.13 g, 61% | C1(CCCCC1)CCCN1C(C[C@@H]2C3=C(CC[C@H]12)C(=CC=C3)OC)=O | C22H31NO2
